US07964643B2
3-Trifluoromethylbiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide (ABD-310)
Using a method analogous to that described in Example 40, 4-bromo-2-trifluoromethylphenyl-sulfonic acid-(4-hydroxybutyl)-amide and phenyl boronic acid were reacted to give the title compound as a white solid. δC (DMSO, 62.9 MHz): 26.1, 29.5, 42.8, 60.2, 125.1, 126.6, 127.2, 127.4, 129.2, 130.8, 132.5, 137.1, 138.3 and 144.0.

reactant | 4-bromo-2-trifluoromethylphenyl-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=C(C=C(C=C1)Br)C(F)(F)F | C11H13BrF3NO3S
reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 3-Trifluoromethylbiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=C(C=C(C=C1)C1=CC=CC=C1)C(F)(F)F | C17H18F3NO3S
